Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
bee venom (honey bee)
 
Attending: ___.
 
Chief Complaint:
s/p fall off bike
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o male with + ETOH, who was found on the ground
unresponsive, with a bicycle on top of him, accident unclear and
unwitnessed. The patient was found with abrasions on face and
right knee, and a right temporal subgaleal hematoma. At the 
scene
an airway was placed, and intubated at the OSH for airway
protection ___ unresponsiveness. A CT of the head was obtained 
at
the OSH and found a small right IVH, the patient was then
medflighted to ___ for further work up. 
On arrival the patient was on propofol and versed gtt for
sedation, sedation held for examination.     
 
Past Medical History:
HTN, Right Knee surgery (obtain from chart), alcohol abuse 
 
Social History:
___
Family History:
nc
 
Physical Exam:
ON ADMISSION:
O: T: 97.0  BP: 103/63    HR: 73    R: 17    O2Sats: 99%
Gen: WD/WN, comfortable, NAD.
Extrem: Warm and well-perfused.
Neuro:
Mental status: Unresponsive off sedation 
Unable to assess orientation ___ unresponsiveness and 
intubation.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3 to 2
mm bilaterally, initially pinpoint and non-reactive.
Unable to assess other cranial nerves. 
+ Gag, Cough, and Corneals. 
Motor: 
Sensation: Unable to obtain. 

Toes downgoing bilaterally

ON DISCHARGE:
Patient is awake, oriented to self, hospital unable to tell me 
name, and states "I don't know" when asked year. Speech is clear 
but inappropriate at times. Follows commands, grossly ___ 
throughout however does not follow specific muscle group 
testing. Face symmetric, tongue midline, no pronator drift. 
PEARL ___. 

 
Pertinent Results:
___ CT HEAD W/O CONTRAST

1. Images are mildly degraded by streak artifact from dental 
amalgam. 
2. Minimal right frontal supraorbital scalp soft tissue swelling 
without 
evidence of fracture. 
3. The known small layering intraventricular hemorrhage in the 
occipital horn 
of the right lateral ventricle is unchanged in size since ___. 
4. No new intracranial hemorrhage identified. 
5. Extensive nonspecific paranasal sinus disease, as above.  
Area of high 
density opacification within right maxillary sinus may represent 
blood 
products, secretions secondary to intubation status, or chronic 
sinusitis.  If 
concern for occult facial bone fracture, consider dedicated 
facial bone CT. 
6. Periodontal and dental disease as described. 

___ CXR
IMPRESSION:  
Compared to chest radiographs ET tube in standard placement.  
Nasogastric 
drainage tube is looped in the stomach. 
  
Lung volumes are appreciably lower today than yesterday, 
especially left lower lobe.  This could be due to aspiration.  
Followup advised.  Upper lungs clear. Heart size normal.  No 
appreciable pleural abnormality.

___ CXR
Compared to chest radiographs ET tube in standard placement.  
Nasogastric 
drainage tube is looped in the stomach. 
  
Lung volumes are appreciably lower today than yesterday, 
especially left lower lobe.  This could be due to aspiration.  
Followup advised.  Upper lungs clear. Heart size normal.  No 
appreciable pleural abnormality. 

 
___ CXR
Comparison to ___.  The nasogastric tube has been 
pulled back.  The tip now projects over the proximal parts of 
the stomach.  No change in 
appearance of the lung parenchyma and the heart. 

___ CXR
 
New right basilar opacities and decreased left basilar opacities 
raise 
suspicion for recurrent aspiration. 

 
Brief Hospital Course:
___ y/o male with + ETOH, who was found on the ground 
unresponsive, with a bicycle on top of him, accident unclear and 
unwitnessed. At the scene an airway was placed, and intubated at 
the OSH for airway protection ___ unresponsiveness. A CT of the 
head was obtained at the OSH and found a small right IVH, the 
patient was then
medflighted to ___ for further work up. Patient was 
admitted to the ICU on the Neurosurgery Service for continued 
care. 

On ___, patient remains intubated and sedated. Off sedation, 
patient opens eyes, follows commands in all extremities and is 
grossly ___. Critical care working on extubating patient however 
did not tolerate a SBT. Due to history of alcohol abuse, patient 
started on a phenobarbital taper. 

On ___, during morning rounds patient remains intubated and 
sedated. Off propofol, patient will open eyes to noxious, 
follows commands in all extremities. In the afternoon, patient 
was extubated, tolerating well. Will continue to monitor in ICU 
post-extubation. 

On ___, the patient remained stable, however, continued with 
agitation, requiring 4 point restraints, Haldol, and precedex 
gtt. There was question of pt possibly not responding to 
phenobarbital CIWA protocol, and the Phenobarbitol was increased 
with good effect. 

On ___, the patient was more awake and appropriate, A&Ox 3 with 
choices and following commands. His precedex gtt is being weaned 
to off, once precedex gtt is off then he will be transferred to 
the floor. 

On ___, patients neurologically exam improving. Patient was 
ordered to transfer to the floor. Overnight, a Code Purple was 
called due to patients agitation. Patient was easily 
re-detectable. 

On ___, in the early morning, a code purple was called due to 
the patients agitation which required medications. During the 
day, patient refusing ___, medications and requesting to go home. 


On ___, patient is neurologically and hemodynamically stable. 
Patient discharged to home with family. 

Follow up instructions given at time of discharge and 
communicated to patient and family. Patient is to follow up PCP 
___ ___ days to discuss admission, alcohol dependence, and 
re-check of blood pressure. 

 
Medications on Admission:
Unknown
 
Discharge Medications:
1. Acetaminophen ___ mg PO Q8H:PRN pain/fever 
2. Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 10 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth BID for 8 days Disp #*16 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
TBI
Intra-ventricular hemorrhage 
Alcohol withdrawal 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Brain Hemorrhage without Surgery
 
Activity

     We recommend that you avoid heavy lifting, running, 
climbing, or other strenuous exercise until your follow-up 
appointment.

     You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.

     No driving while taking any narcotic or sedating 
medication. 

     If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 

     No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications

     You may use Acetaminophen (Tylenol) for minor discomfort 
if you are not otherwise restricted from taking this medication.

What You ___ Experience:

     You may have difficulty paying attention, concentrating, 
and remembering new information.

     Emotional and/or behavioral difficulties are common. 

     Feeling more tired, restlessness, irritability, and mood 
swings are also common.

     Constipation is common. Be sure to drink plenty of fluids 
and eat a high-fiber diet. If you are taking narcotics 
(prescription pain medications), try an over-the-counter stool 
softener.

Headaches:

     Headache is one of the most common symptom after a 
traumatic brain injury/concussion. 

     Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 

     Mild pain medications may be helpful with these headaches 
but avoid taking pain medications on a daily basis unless 
prescribed by your doctor. 

     There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:

     Fever greater than 101.5 degrees Fahrenheit

     Nausea and/or vomiting

     Extreme sleepiness and not being able to stay awake

     Severe headaches not relieved by pain relievers

     Seizures

     Any new problems with your vision or ability to speak

     Weakness or changes in sensation in your face, arms, or 
leg

 

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:

     Sudden numbness or weakness in the face, arm, or leg

     Sudden confusion or trouble speaking or understanding

     Sudden trouble walking, dizziness, or loss of balance or 
coordination

     Sudden severe headaches with no known reason

 
Followup Instructions:
___